US09120788B2
Step 2. Synthesis of 4-[(3-aminopyridin-2-yl)-amino]-2-fluorobenzonitrile (C15)
To a solution of 2-fluoro-4-[(3-nitropyridin-2-yl)amino]benzonitrile (C14) (5.4 g, 21 mmol) in a 1:1 mixture of tetrahydrofuran and water (40 mL) was added ammonium chloride (8.9 g, 170 mmol), followed by zinc (10.8 g, 165 mmol). The mixture was stirred at 60° C. for 30 minutes, whereupon it was filtered through a pad of Celite. The organic layer from the filtrate was diluted with ethyl acetate, washed with saturated aqueous ammonium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo; the residue was washed with heptane to afford the product as a brown solid. Yield: 4.2 g, 18 mmol, 86%. LCMS m/z 229.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.68 (br s, 1H), 7.82 (dd, J=13.6, 2.0 Hz, 1H), 7.66 (dd, J=8.4, 8.3 Hz, 1H), 7.61 (dd, J=4.8, 1.6 Hz, 1H), 7.37 (dd, J=8.8, 2.0 Hz, 1H), 7.03 (dd, J=7.8, 1.6 Hz, 1H), 6.82 (dd, J=7.8, 4.8 Hz, 1H), 5.24 (br s, 2H).

reactant | 2-fluoro-4-[(3-nitropyridin-2-yl)amino]benzonitrile | 21 mmol, 5.4 g | FC1=C(C#N)C=CC(=C1)NC1=NC=CC=C1[N+](=O)[O-] | C12H7FN4O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ammonium chloride | 170 mmol, 8.9 g | [Cl-].[NH4+]
catalyst | zinc | 165 mmol, 10.8 g | [Zn] | Zn
solvent | water | 40 mL | O | H2O
product | 4-[(3-aminopyridin-2-yl)-amino]-2-fluorobenzonitrile | NC=1C(=NC=CC1)NC1=CC(=C(C#N)C=C1)F | C12H9FN4
